US06610723B2
[1-(3,4-Dichloro-phenyl)-5-methyl-1H-imidazol-4-yl]-methanol
To a solution of 1-(3,4-dichloro-phenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester (0.82 g, 2.7 mmol) in THF (27 ml) lithium aluminum hydride (0.21 g, 5.4 mmol) was added portionwise keeping T<10° C. The mixture was stirred in an ice-bath for 2 h, then 1 ml saturated aqueous Seignette salt solution was slowly added. After dilution with AcOEt (100 ml) the mixture was filtered, concentrated and chromatographed [silica, elution with gradient CH2Cl2 to 80% (CH2Cl2/MeOH=9:1)]. The title compound was obtained as a white crystalline solid (0.46 g, 66%). Mp. 174-175° C. (CH2Cl2/iPr2O), MS: m/e=256 (M+)

reactant | 1-(3,4-dichloro-phenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester | 2.7 mmol, 0.82 g | C(C)OC(=O)C=1N=CN(C1C)C1=CC(=C(C=C1)Cl)Cl | C13H12Cl2N2O2
reactant | THF | 5.4 mmol, 27 ml, 0.21 g | C1CCOC1 | C4H8O
reactant | Seignette salt | 1 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
product | [1-(3,4-Dichloro-phenyl)-5-methyl-1H-imidazol-4-yl]-methanol | ClC=1C=C(C=CC1Cl)N1C=NC(=C1C)CO | C11H10Cl2N2O
